US04608081
N-Phenyl-2[4-(4-cyanophenoxy)-phenoxy]-propionamide(Compound No. 1)
To 30 ml of acetone were added 1.06 g of 4-(4-cyanophenoxy)-phenol, 0.99 g of α-bromopropionanilide and 0.83 g of anhydrous potassium carbonate, and the mixture wask subjected to reflux for 16 hours with stirring. After the reaction mixture was cooled and separated from inorganic salts through filtration, acetone was distilled away therefrom. The residue was purified through a column-chromatography [silica gel, developed with ethyl acetate/n-hexane=1/1(V/V)] to give 1.07 g of the title compound (yield 60%), which was recrystallized from a mixed solvent of benzene-n-hexane to afford a crystal of melting point 133°-134° C.

reactant | 4-(4-cyanophenoxy)-phenol | 1.06 g | C(#N)C1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C13H9NO2
reactant | α-bromopropionanilide | 0.99 g | BrC(C(=O)NC1=CC=CC=C1)C | C9H10BrNO
reactant | potassium carbonate | 0.83 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | N-Phenyl-2[4-(4-cyanophenoxy)-phenoxy]-propionamide | 1.07 g, yield 60% | C1(=CC=CC=C1)NC(C(C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C#N)=O | C22H18N2O3
